US08669266B2
(iii) (S)-2-[(4-Hydroxy-quinoline-2-carbonyl)-amino]-pentanedioic acid 5-tert-butyl ester 1-methyl ester
To a solution of 5 g 4-Hydroxy-quinoline-2-carboxylic acid and 5 g of (S)-2-Amino-pentanedioic acid 5-tert-butyl ester 1-methyl ester hydrochloride in 50 ml of DMF, 4.0 g of HOBT, 5.1 g of EDC and 6 g of NEM was added and the reaction mixture was stirred for 16 h at RT. Then, the reaction mixture was diluted with water and extracted with DCM. The organic phase was dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was purified by re-crystallisation from ethyl acetate and dried under reduced pressure. Yield: 6.5 g.

reactant | 4-Hydroxy-quinoline-2-carboxylic acid | 5 g | OC1=CC(=NC2=CC=CC=C12)C(=O)O | C10H7NO3
reactant | (S)-2-Amino-pentanedioic acid 5-tert-butyl ester 1-methyl ester hydrochloride | 5 g | Cl.COC([C@H](CCC(=O)OC(C)(C)C)N)=O
reactant | HOBT | 4.0 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 5.1 g
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (S)-2-[(4-Hydroxy-quinoline-2-carbonyl)-amino]-pentanedioic acid 5-tert-butyl ester 1-methyl ester | COC([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC=CC=C2C(=C1)O)=O | C20H24N2O6
